US07265120B2
A mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (11.35 g) and sodium thiomethoxide (4.12 g) in 1,3-dimethyl-2-imidazolidinone (17 ml) was heated at 100-105° C. for one hour. The mixture was poured into water (170 ml). The precipitate was collected by filtration, dissolved in CHCl3, dried over MgSO4, concentrated under reduced pressure to give a residue. The residue was purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (50:50 v/v) to give 6-[5-amino-6-(methylthio)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone as a solid (4.32 g).

reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 11.35 g | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | sodium thiomethoxide | 4.12 g | C[S-].[Na+]
reactant | water | 170 ml | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | 17 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 6-[5-amino-6-(methylthio)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 4.32 g | NC=1N=C(C(=NC1SC)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C18H19N5OS
